US04605757
The test described in Example 1 was repeated using 300 g of o-bromotoluene, 660 g of acetic acid, 60 g of water, 6 g of cobalt acetate tetrahydrate, 5 g of sodium bromide and 5 g of sodium acetate. After a reaction time of 155 minutes, 217 g of o-bromobenzoic acid was obtained (61.6% of the theory).

reactant | o-bromotoluene | 300 g | BrC1=C(C=CC=C1)C | C7H7Br
reactant | acetic acid | 660 g | C(C)(=O)O | C2H4O2
catalyst | cobalt acetate tetrahydrate | 6 g | O.O.O.O.C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
catalyst | sodium bromide | 5 g | [Br-].[Na+]
catalyst | sodium acetate | 5 g | C(C)(=O)[O-].[Na+]
solvent | water | 60 g | O | H2O
product | o-bromobenzoic acid | 217 g | BrC1=C(C(=O)O)C=CC=C1 | C7H5BrO2
